US08048897B2
(2) (2-Benzyloxy-6-methoxyphenyl)methanol
In a nitrogen stream, to a suspension of lithium aluminum hydride (0.88 g, 23.14 mmol) in ether (35 mL), a solution of 2-benzyloxy-6-methoxybenzoic acid benzyl ester (6.2 g, 17.80 mmol) in ether (20 mL) was added at room temperature over 15 minutes. The reaction mixture was stirred for two hours under heating to reflux. Ethyl acetate (2 mL) was added dropwise to the reaction mixture under cooling with ice and then a saturated Rochelle salt aqueous solution (20 mL) was added dropwise thereto and the mixture was stirred at room temperature for 20 hours. The reaction mixture was subjected to Celite filtration and to the filtrate was added a saturated Rochelle salt aqueous solution (15 mL) and the mixture was extracted with ether. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous sodium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ether: n-hexane (1:1)] to obtain the title compound (4.75 g, 100%).

reactant | lithium aluminum hydride | 23.14 mmol, 0.88 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-benzyloxy-6-methoxybenzoic acid benzyl ester | 17.80 mmol, 6.2 g | C(C1=CC=CC=C1)OC(C1=C(C=CC=C1OC)OCC1=CC=CC=C1)=O | C22H20O4
reactant | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
reactant | Rochelle salt | 20 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | ether | 35 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | (2-Benzyloxy-6-methoxyphenyl)methanol | 4.75 g, 100% | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OC)CO | C15H16O3
